US06677364B2
To a solution of 4-[(2-chloro)-4-phenyloxazol-5-yl]benzenesulfonamide (0.21 g, 0.63 mmol) in 2 mL of anhydrous THF at 5° C. was added a solution of 3-[tetrahydro-(4-methoxy)pyran-4-yl]benzyl mercaptan (prepared as described in U.S. Pat. No. 5,424,320) (0.15 g, 0.63 mmol) and DBU (95 mg, 0.63 mmol) in 5 mL of THF while maintaining the temperature at 5° C. The reaction mixture was stirred for 1 h at 5° C. for 5 h at room temperature. The reaction mixture was diluted with 100 mL of ethyl acetate and washed with 1 N HCl (1×100 mL), saturated aqueous NaHCO3 (1×100 mL), brine (1×100 mL), dried over magnesium sulfate, filtered and concentrated. The concentrated residue was purified by flash column chromatography on silica gel, eluting with 40% ethyl acetate in hexane, to give 0.19 g (56%) of 4-[2-[3-(3,4,5,6-tetrahydro-4-methoxypyran-4-yl)phenyl]methylthio]-4-phenyloxazol-5-yl]benzenesulfonamide as a white solid: m.p. 74.7-78.5° C. 1H NMR (CDCl3/300 MHz) δ 1.85-1.97 (m, 4H), 2.92 (s, 3H), 3.71-3.85 (m, 4H), 4.48 (s, 2H), 4.87 (s, 2H), 7.29-7.47 (m, 7H), 7.60-7.69 (m, 4H), 7.86-7.90 (m, 2H). HRMS calcd for C28H28N2O5S2 537.1518. Found 537.1516.

reactant | 4-[(2-chloro)-4-phenyloxazol-5-yl]benzenesulfonamide | 0.63 mmol, 0.21 g | ClC=1OC(=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)N | C15H11ClN2O3S
reactant | 3-[tetrahydro-(4-methoxy)pyran-4-yl]benzyl mercaptan | COC1(CCOCC1)C=1C=C(CS)C=CC1 | C13H18O2S
reactant | DBU | 0.63 mmol, 95 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | benzenesulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
